2183-05-15 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Bacitracin
   Rash;
   Morphine
   Rash; itchiness
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-14**] 09:15 PM
   Cefipime - [**2183-5-15**] 04:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-15**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 117 (101 - 127) bpm
   BP: 139/71(85) {115/55(75) - 144/109(116)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,680 mL
                                                                    978 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  3,417 mL
                                                                    391 mL
   Blood products:
                                                                    163 mL
                                                                    588 mL
   Total out:
                                                                  2,750 mL
                                                                  1,200 mL
   Urine:
                                                                  2,750 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    930 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : Left, Rhonchorous: RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person and place, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   28 K/uL
   12.1 g/dL
   86 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   4 mg/dL
   104 mEq/L
   135 mEq/L
   34.0 %
   0.9 K/uL
        [image002.jpg]
                             [**2183-5-14**]  12:53 AM
                             [**2183-5-14**]  11:16 AM
                             [**2183-5-14**]  05:34 PM
                             [**2183-5-14**]  06:12 PM
                             [**2183-5-15**]  05:00 AM
   WBC
   0.8
   0.6
   0.9
   Hct
   23.3
   15.2
   21.7
   34.0
   Plt
   31
   21
   28
   Cr
   0.4
   TropT
   <0.01
   Glucose
   86
   Other labs: PT / PTT / INR:12.5/26.8/1.1, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:40/32, Alk Phos / T Bili:89/0.9,
   Differential-Neuts:26.0 %, Band:0.0 %, Lymph:64.7 %, Mono:1.8 %,
   Eos:6.7 %, Lactic Acid:0.7 mmol/L, LDH:334 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 718**] is a 49 yo F with history of NSCLC s/p chemotherapy on
   [**5-9**] who presents with febrile neutropenia and altered mental status.
   1. Febrile neutropenia: Patient with decreasing WBC counts after chemo
   and new fever.  Will treated for now with Vancomycin and cefepime with
   cultures pending.  The most likely cause is pneumonia given the
   possible developing infiltrate on CXR.  However other causes including
   aspiration pneumonia, PCP pneumonia, CNS infection and fungal infection
   should be condsidered in this patient should she clinically
   decompensate as these would not be covered by her current regimen.
   - Continue Vanc/cefepime for F&N
 likely pulmonary source
   - CXR
 developing RLL PNA
   - Cultures pending
 attempt sputum culture if pt able to cooperate
   .
   2. Altered mental status: Likely multifactorial.  At least in part due
   to delirium with fever and infection.  However, other causes including
   CNS infections, CNS metastases and recent EtOH and pain medication
   increases.  Patient does not currently appear to have any focal
   neurologic signs nor does she have intoxication symptoms.  It is
   possible however, that the patient may have alcohol withdrawal.  After
   discussing with the husband she may have had increased intake of
   alcohol in the last few months while he has not been able to be at home
   as much.  Given that he was home more in the last few days, it is
   possible that she is now in withdrawal of alcohol/benzodiazepines.
   Hepatic encephalopathy also a consideration given her alcohol use
   history.
   - Consider LP if infection persists
   - CT head to r/o bleed
   - LFTs and INR
   - CIWAs, consider diazepam for CIWA >10
   - Hold sedating meds otherwise including hydromorphone.
   - Ethanol
 negative, serum and urine tox pending
   - will readd standing ativan to prevent withdrawal
 pt on standing
   ativan at home
   3. NSCLC: s/p recent chemotherapy.  Patient is Stage IV and receiving
   palliative treatment.  Recent chemotherapy was only 4 days ago, thus
   she has not yet reached nadir of her myelosupression.  Await recs from
   oncology regarding treatment for neutropenia/thrombocytopenia.  Will
   hold heparin for now for DVT ppx given thrombocytopenia
   - consider neupogen given infections, await onc input.
   .
   4. Hypoxia/chest pain: As above the patient likely has pneumonia with
   CXR, fever, cough.  However other causes of hypoxia and ? pleuritic
   chest pain include PE (history of DVT) as well as Myocardia
   infarction.  At this point patient is not stable for CT and is not
   cooperating with  ABG.    Given more likely diagnoses will defer CTA
   for now.  With regards to MI risk, the patient does have ECG changes,
   but negative cardiac enzymes.  Consider CTA
   5. Electrolyte abnormalities: Consistent right now with dehydration
   improved with hydration overnight
   6. Alcohol use: will continue on CIWA and IVF PRN
   7. GERD: continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2183-5-14**] 11:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2183-05-15 10:51:00 Physician Attending Progress Note
Chief Complaint: Wants to go home
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT - new brain mets
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Bacitracin
   Rash;
   Morphine
   Rash; itchiness
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2183-5-15**] 04:59 AM
   Vancomycin - [**2183-5-15**] 08:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-15**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 121 (101 - 127) bpm
   BP: 144/57(76) {115/57(75) - 148/109(116)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,680 mL
                                                                  1,449 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  3,417 mL
                                                                    862 mL
   Blood products:
                                                                    163 mL
                                                                    588 mL
   Total out:
                                                                  2,750 mL
                                                                  1,200 mL
   Urine:
                                                                  2,750 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    930 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : few at base R, Wheezes
   : local R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Confused, easily
   reoriented, intermittently agitated
   Labs / Radiology
   12.1 g/dL
   28 K/uL
   182 mg/dL
   0.1 mg/dL
   25 mEq/L
   4.2 mEq/L
   5 mg/dL
   99 mEq/L
   133 mEq/L
   34.0 %
   0.9 K/uL
        [image002.jpg]
                             [**2183-5-14**]  12:53 AM
                             [**2183-5-14**]  11:16 AM
                             [**2183-5-14**]  05:34 PM
                             [**2183-5-14**]  06:12 PM
                             [**2183-5-15**]  05:00 AM
   WBC
   0.8
   0.6
   0.9
   Hct
   23.3
   15.2
   21.7
   34.0
   Plt
   31
   21
   28
   Cr
   0.4
   0.1
   TropT
   <0.01
   Glucose
   86
   182
   Other labs: PT / PTT / INR:12.5/26.8/1.1, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:40/32, Alk Phos / T Bili:89/0.9,
   Differential-Neuts:26.0 %, Band:0.0 %, Lymph:64.7 %, Mono:1.8 %,
   Eos:6.7 %, Lactic Acid:0.7 mmol/L, LDH:334 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Delerium
   NSCLC
   RLL pneumonia
   Fever and neutropenia
   EtOH
   Tachycardia
   Plan for XRT for newly discovered brain mets. Remains tachycardic but
   little to suggest withdrawal and does not seem volume depleted.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: On decadron
   Lines:
   20 Gauge - [**2183-5-14**] 11:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status:
   Disposition :
   Total time spent: 30 minutes